US06284785B1
(RS)-1-(4-Fluoro-benzenesulfonyl)-2-p-tolyl-pyrrolidine
The title compound, white solid, m.p. 112° C. and MS: m/e=319 (M+) was prepared in accordance with the general method of example 1e from (RS)-2-p-tolyl-pyrrolidine and 4-fluoro-benzenesulfonyl chloride.

reactant | (RS)-2-p-tolyl-pyrrolidine | C1(=CC=C(C=C1)C1NCCC1)C | C11H15N
reactant | 4-fluoro-benzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | (RS)-1-(4-Fluoro-benzenesulfonyl)-2-p-tolyl-pyrrolidine | FC1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)C1=CC=C(C=C1)C | C17H18FNO2S
